US07332508B2
1-Cyclopentyl-4-{2-[5-(4-cyanophenyl)[1,2,4]oxadiazol-3-yl]ethyl}piperidine, hydrochloride
The title compound was prepared by a similar procedure to that described in Example 1, starting from 3-(1-cyclopentylpiperidin-4-yl)-N-hydroxypropionamidine and 4-cyanobenzoyl chloride.

reactant | 3-(1-cyclopentylpiperidin-4-yl)-N-hydroxypropionamidine | C1(CCCC1)N1CCC(CC1)CCC(=N)NO | C13H25N3O
reactant | 4-cyanobenzoyl chloride | C(#N)C1=CC=C(C(=O)Cl)C=C1 | C8H4ClNO
product | 1-Cyclopentyl-4-{2-[5-(4-cyanophenyl)[1,2,4]oxadiazol-3-yl]ethyl}piperidine, hydrochloride | Cl.C1(CCCC1)N1CCC(CC1)CCC1=NOC(=N1)C1=CC=C(C=C1)C#N | InChI=1S/C21H26N4O.ClH/c22-15-17-5-8-18(9-6-17)21-23-20(24-26-21)10-7-16-11-13-25(14-12-16)19-3-1-2-4-19;/h5-6,8-9,16,19H,1-4,7,10-14H2;1H
